US08426447B2
Synthesis of 3-(3,3-dimethylbut-1-ynyl)-7-methoxy-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine
Combined 3-bromo-7-methoxy-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine (104186-10-peak 1) (500 mg, 1.381 mmol), tetrakis(triphenylphosphine)palladium (160 mg, 0.138 mmol), copper(i) iodide (52.6 mg, 0.276 mmol). Added DMF (6903 μL, 1.381 mmol), 3,3-dimethylbut-1-yne (340 mg, 4.14 mmol) and diisopropylamine (4837 μL, 34.5 mmol), flushed with argon, sealed and heated at 90° C. for 2 hours. The reaction was diluted with water (100 mL) and poured into a separatory funnel containing ethyl acetate (100 mL). The layers were separated and the aqueous layer was extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with water and then brine, dried over sodium sulfate, filtered and concentrated in vacuo to provide a brown oil that was purified by silica gel chromatography (Redi-Sep pre-packed silica gel column (40 g), 0-10% methanol in methylenechloride with 0.1% ammonium hydroxide) to provide the desired product contaminated with triphenylphosphine. The yellow solid was suspended in 25 mL of ether, resulting in the formation of a fine white precipitate. Decanted ether and washed the solid with 10 mL of ether. Dried under reduced pressure to provide 3-(3,3-dimethylbut-1-ynyl)-7-methoxy-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine as a white solid.

reactant | 3-bromo-7-methoxy-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | 1.381 mmol, 500 mg | BrC=1C=C2C(=NC1)OC1=CC=C(C=C1C21N=C(OC1)N)OC | C15H12BrN3O3
reactant | DMF | 1.381 mmol, 6903 μL | CN(C)C=O | C3H7NO
reactant | 3,3-dimethylbut-1-yne | 4.14 mmol, 340 mg | CC(C#C)(C)C | C6H10
reactant | diisopropylamine | 34.5 mmol, 4837 μL | C(C)(C)NC(C)C | C6H15N
solvent | water | 100 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.138 mmol, 160 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper(i) iodide | 0.276 mmol, 52.6 mg | [Cu]I
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-(3,3-dimethylbut-1-ynyl)-7-methoxy-5′H-spiro[chromeno[2,3-b]pyridine-5,4′-oxazol]-2′-amine | CC(C#CC=1C=C2C(=NC1)OC1=CC=C(C=C1C21N=C(OC1)N)OC)(C)C | C21H21N3O3
